US07727985B2
A solution of morpholine-3(S),4-dicarboxylic acid 4-tert-butyl ester (2.83 g, 12.7 mmol) in pyridine (106 ml) was stirred at RT. 6-chloro-9H-β-carbolin-8-ylamine (2.30 g, 10.6 mmol) was added, followed by EDCI (4.06 g, 21.2 mmol). The clear orange-to-brown solution was stirred at RT for 14 hr. The solution was diluted with H2O (120 ml) and poured into a separatory funnel containing EtOAc (200 ml), H2O (100 ml) and brine (100 ml). The mixture was shaken and the layers were separated. The aqueous layer was extracted with EtOAc (2×50 ml) and the combined organic layers were washed with brine. The organic layer was dried, filtered and concentrated to a reduced volume, then added drop-wise to a stirring solution of 1:1 Et2O/hexanes (500 ml). The precipitate which formed was filtered and washed with 1:1 Et2O/Hexanes. The filtrate was concentrated to a reduced volume and a second crop of precipitate was collected. The solid product was placed under high vacuum for 2 hr to yield 3(S)-(6-chloro-9H-β-carbolin-8-ylcarbamoyl)-morpholine-4-carboxylic acid tert-butyl ester as a pale yellow to pale brown solid (4.36 g).

reactant | morpholine-3(S),4-dicarboxylic acid 4-tert-butyl ester | 12.7 mmol, 2.83 g | C(C)(C)(C)OC(=O)N1[C@@H](COCC1)C(=O)O | C10H17NO5
reactant | 6-chloro-9H-β-carbolin-8-ylamine | 10.6 mmol, 2.30 g | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)N | C11H8ClN3
reactant | EDCI | 21.2 mmol, 4.06 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | EtOAc | 200 ml | CCOC(=O)C | C4H8O2
solvent | pyridine | 106 ml | N1=CC=CC=C1 | C5H5N
solvent | H2O | 120 ml | O | H2O
solvent | brine | 100 ml | [Cl-].[Na+].O
solvent | H2O | 100 ml | O | H2O
product | 3(S)-(6-chloro-9H-β-carbolin-8-ylcarbamoyl)-morpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](COCC1)C(NC=1C=C(C=C2C=3C=CN=CC3NC12)Cl)=O | C21H23ClN4O4
